US07612075B2
B. Ethyl 2-thienyloxyacetate.
To a solution of 2-hydroxy-thiophene (32 g, 320 mmol) in CHCl3 (500 mL) is added ethyl bromoacetate (53.4 g, 320 mmol). To the resulting solution is added a solution containing n-Bu4NHSO4 (25 g, 74 mmol) and NaOH (15.8 g, 394 mmol) in water (500 mL). After addition, the solution is stirred vigorously using mechanical stirring. The reaction is stirred for 12 hours. After this time, the layers are separated. The aqueous layer is extracted with CHCl3. The combined organic layers are washed with water and saturated NaCl. The organic layer is dried over MgSO4, filtered and concentrated under vacuum. The resulting crude product is purified by column chromatography eluting with a gradient of 30%CH2Cl2:hexanes to 60%CH2Cl2:hexanes. The title compound (11.5 g, 62 mmol) is obtained as 1H NMR (CDCl3, 300 MHz) δ6.68 (dd, 1H), 6.60 (d, 1H), 6.22 (d, 1H), 4.62 (s, 2H), 4.30 (q, 2H), 1.31 (t, 3H).

reactant | 2-hydroxy-thiophene | 320 mmol, 32 g | OC=1SC=CC1 | C4H4OS
reactant | ethyl bromoacetate | 320 mmol, 53.4 g | BrCC(=O)OCC | C4H7BrO2
reactant | NaOH | 394 mmol, 15.8 g | [OH-].[Na+]
solvent | CHCl3 | 500 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | n-Bu4NHSO4 | 74 mmol, 25 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[O-]S(=O)(=O)O
solvent | water | 500 mL | O | H2O
product | Ethyl 2-thienyloxyacetate | 62 mmol, 11.5 g | S1C(=CC=C1)OCC(=O)OCC | C8H10O3S
